US04552882
Preparation of 6-fluoro-7-(1-pyrrolyl)-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (stage D)
2.5 Grams of 6-fluoro-7-amino-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid are suspended in 15 ml of acetic acid, and 1.32 gram of dimethoxytetrahydrofuran is added; the mixture is heated gradually until the solid dissolves, and is then allowed to cool. The precipitate formed is filtered off and washed with ethanol. The product is recrystallized in acetonitrile, and 1.4 gram of needles is obtained, of melting point 251°-252° C.

reactant | 6-fluoro-7-amino-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | FC=1C=C2C(C(=CN(C2=CC1N)CC)C(=O)O)=O | C12H11FN2O3
reactant | dimethoxytetrahydrofuran | 1.32 gram | COC1(OCCC1)OC | C6H12O3
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 6-fluoro-7-(1-pyrrolyl)-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.4 gram | FC=1C=C2C(C(=CN(C2=CC1N1C=CC=C1)CC)C(=O)O)=O | C16H13FN2O3
